US05389633
Production of 6-(2,2-dimethyl-3-sulfamoyl-1-propoxy)[1,2,4]triazolo[1,5-b]pyridazine
In 15 ml of dimethylformamide was suspended 0.42 g of 60% sodium hydride in oil, followed by addition of 0.878 g of 3-hydroxy-2,2-dimethyl-1-propanesulfonamide and the mixture was stirred under reduced pressure at room temperature for 30 minutes. Then, 0.773 g of 6-chloro[1,2,4]triazolo[1,5-b]pyridazine was added and the mixture was further stirred at room temperature for 1 hour. Following addition of 40 ml of iced water, the reaction mixture was adjusted to pH 6 with 1N-hydrochloric acid and the resulting crystals were collected by filtration and washed with 20 ml of water and 20 ml of ethyl ether. The washed crystals were recrystallized from hot ethanol to provide 1.16 g of the title compound. m.p. 181°-184° C.

reactant | sodium hydride | 0.42 g | [H-].[Na+]
reactant | 3-hydroxy-2,2-dimethyl-1-propanesulfonamide | 0.878 g | OCC(CS(=O)(=O)N)(C)C | C5H13NO3S
reactant | 6-chloro[1,2,4]triazolo[1,5-b]pyridazine | 0.773 g | ClC=1C=CC=2N(N1)N=CN2 | C5H3ClN4
reactant | hydrochloric acid | Cl | ClH
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
solvent | water | 40 ml | O | H2O
product | 6-(2,2-dimethyl-3-sulfamoyl-1-propoxy)[1,2,4]triazolo[1,5-b]pyridazine | 1.16 g | CC(COC=1C=CC=2N(N1)N=CN2)(CS(N)(=O)=O)C | C10H15N5O3S
